US04670441
1.3 1,3-Dimethyl-5-[4-(5-trifluoromethylpyrid-2-yloxy)phenylcarbamoyl]-2-thiobarbituric acid
2.5 g (10 mmol) of 1,3-dimethyl-5-ethoxycarbonyl-2-thiobarbituric acid, 2,55 g (10 mmol) of 4-(5-trifluoromethylpyrid-2-yloxy)aniline and 5 ml of dimethylformamide are stirred for 6 hours at 118° C. The reaction mixture is then cooled, triturated with water and the crystalline precipitate is isolated by filtration. The crude product is recrystallised from ethanol. Melting point 156°-158° C.

reactant | 1,3-dimethyl-5-ethoxycarbonyl-2-thiobarbituric acid | 10 mmol, 2.5 g | CN1C(=S)N(C(=O)C(C1=O)C(=O)OCC)C | C9H12N2O4S
reactant | 4-(5-trifluoromethylpyrid-2-yloxy)aniline | 10 mmol, 2,55 g | FC(C=1C=CC(=NC1)OC1=CC=C(N)C=C1)(F)F | C12H9F3N2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1,3-Dimethyl-5-[4-(5-trifluoromethylpyrid-2-yloxy)phenylcarbamoyl]-2-thiobarbituric acid | CN1C(=S)N(C(=O)C(C1=O)C(NC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F)=O)C | C19H15F3N4O4S
